US07728025B2
(Step 3) Production of 1-acetyl-2-(2-fluoro-4-nitro-phenyl)-4-hydroxy-pyrrolidine
1 ml of water and 600 mg of iodine were added to a tetrahydrofuran (4 ml) solution of 200 mg of N-(1-(2-fluoro-4-nitro-phenyl)-3-butenyl)-acetamide, and the reaction liquid was stirred overnight at room temperature. The reaction liquid was diluted with chloroform, washed with aqueous saturated sodium bicarbonate, aqueous saturated sodium thiosulfate and saturated saline in order, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure to obtain a crude product. 0.25 ml of triethylamine, 0.13 ml of acetic anhydride and 10 mg of 4-dimethylaminopyridine were added to a chloroform (5 ml) solution of the crude product, and the reaction liquid was stirred at room temperature for 15 minutes. The solvent was evaporated away under reduced pressure, 20 mg of potassium carbonate was added to a methanol (5 ml) solution of the resulting residue, and the reaction liquid was stirred at room temperature for 15 minutes. The solvent was evaporated away under reduced pressure, and the residue was purified through silica gel column chromatography (developing solvent: chloroform/methanol=30/1) to obtain the entitled compound as a colorless solid diastereomer mixture.

reactant | water | 1 ml | O | H2O
reactant | iodine | 600 mg | II | I2
reactant | N-(1-(2-fluoro-4-nitro-phenyl)-3-butenyl)-acetamide | 200 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])C(CC=C)NC(C)=O | C12H13FN2O3
reactant | acetic anhydride | 0.13 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 1-acetyl-2-(2-fluoro-4-nitro-phenyl)-4-hydroxy-pyrrolidine | C(C)(=O)N1C(CC(C1)O)C1=C(C=C(C=C1)[N+](=O)[O-])F | C12H13FN2O4
